US04933355
2-Cyclopropylaminothiazol-4-ylmethanol
The reaction described in Preparation 15 was repeated, but using 1.2 g of ethyl 2-cyclopropylaminothiazole- 4-carboxylate, 0.2 g of lithium aluminum hydride and 20 ml of tetrahydrofuran, giving the title compound as a pale yellow oil.

reactant | ethyl 2-cyclopropylaminothiazole- 4-carboxylate | 1.2 g | C1(CC1)NC=1SC=C(N1)C(=O)OCC | C9H12N2O2S
reactant | lithium aluminum hydride | 0.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-Cyclopropylaminothiazol-4-ylmethanol | C1(CC1)NC=1SC=C(N1)CO | C7H10N2OS
